US20010049385A1
5-((Biphenyl-4-yl)methoxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole
A solution of a mixture of 5-((biphenyl-4-yl)methoxymethyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-((biphenyl-4-yl)methoxymethyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (440 mg, 0.78 mmol) in a mixture of acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 2.25 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 220 mg of the title compound.

reactant | 5-((biphenyl-4-yl)methoxymethyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | C1(=CC=C(C=C1)COCC1CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1)C1=CC=CC=C1 | C40H36N2O
reactant | 5-((biphenyl-4-yl)methoxymethyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 0.78 mmol, 440 mg | C1(=CC=C(C=C1)COCC1CC2=C(N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1)C1=CC=CC=C1 | C40H36N2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 5-((Biphenyl-4-yl)methoxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 220 mg | C1(=CC=C(C=C1)COCC1CC2=C(NC=N2)CC1)C1=CC=CC=C1 | C21H22N2O
